US04616014
Sodium borohydride (1.11 g) was added to a stirred solution of 3-(2-acetylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine (3.29 g) in methanol (30 ml) at room temperature and then the stirring was continued for 1 hour. The precipitates were collected by filtration, washed successively with water, methanol, and diisopropyl ether, and then recrystallized from a mixture of methanol and water to give colorless crystals of 3-(2-acetylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine (1.39 g), m.p. 204.5°~205° C. (decomp.).

reactant | Sodium borohydride | 1.11 g | [BH4-].[Na+]
reactant | 3-(2-acetylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine | 3.29 g | C(C)(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C12H13N5O
solvent | methanol | 30 ml | CO | CH4O
product | 3-(2-acetylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine | 1.39 g | C(C)(=O)NNC=1NN=C(C(N1)C)C1=CC=CC=C1 | C12H15N5O
